US04780528
(A) α-L-Aspartyl-D-alanine n-propyl ester
This compound was prepared from 1.8 g D-alanine n-propyl ester hydrochloride and 3.6 g Z-Asp(OBzl) in a manner similar to Example 16 (A). Yield: 1.9 g.

reactant | D-alanine n-propyl ester hydrochloride | 1.8 g | Cl.C(CC)OC([C@H](N)C)=O
reactant | Z-Asp(OBzl) | 3.6 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H19NO6
product | α-L-Aspartyl-D-alanine n-propyl ester | C(CC)OC([C@H](NC([C@@H](N)CC(O)=O)=O)C)=O | C10H18N2O5
